Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:

___ 06:07PM BLOOD WBC-5.6 RBC-4.10 Hgb-12.8 Hct-39.5 MCV-96 
MCH-31.2 MCHC-32.4 RDW-11.8 RDWSD-41.1 Plt ___
___ 06:07PM BLOOD Neuts-66.0 ___ Monos-7.1 Eos-1.4 
Baso-0.5 Im ___ AbsNeut-3.69 AbsLymp-1.38 AbsMono-0.40 
AbsEos-0.08 AbsBaso-0.03
___ 06:07PM BLOOD ___ PTT-30.5 ___
___ 06:07PM BLOOD Plt ___
___ 06:07PM BLOOD Glucose-101* UreaN-12 Creat-0.6 Na-140 
K-4.5 Cl-102 HCO3-26 AnGap-12
___ 06:07PM BLOOD Calcium-9.3 Phos-3.5 Mg-2.0

PERTINENT LABS:

___ 06:07PM BLOOD cTropnT-<0.01
___ 08:29PM BLOOD cTropnT-<0.01
___ 02:17AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 06:07PM BLOOD D-Dimer-221

DISCHARGE LABS:

___ 02:17AM BLOOD WBC-6.0 RBC-3.91 Hgb-12.0 Hct-37.1 MCV-95 
MCH-30.7 MCHC-32.3 RDW-11.7 RDWSD-39.9 Plt ___
___ 02:17AM BLOOD Plt ___
___ 02:17AM BLOOD ___
___ 02:17AM BLOOD Glucose-111* UreaN-12 Creat-0.6 Na-140 
K-4.0 Cl-102 HCO3-27 AnGap-11
___ 02:17AM BLOOD Calcium-9.0 Phos-3.2 Mg-2.0

IMAGING AND PROCEDURES: 

CHEST XRAY (PA AND LATERAL): ___
FINDINGS: 
PA and lateral views of the chest provided.  Overlying EKG leads 
are present.
There is no focal consolidation, effusion, or pneumothorax.  
There are no
signs of congestion or edema.  The cardiomediastinal silhouette 
is normal.
Imaged osseous structures are intact.  No free air below the 
right
hemidiaphragm is seen.
IMPRESSION: 
No acute intrathoracic process.

STRESS ECHOCARDIOGRAM: ___
Rest Echo: Resting echo images demonstrated normal left 
ventricular wall thicknesses with a normal
cavity size. There is normal regional left ventricular systolic 
function. Overall left ventricular systolic
function is normal. Tissue Doppler suggests a normal left 
ventricular filling pressure (PCWP less
than12mmHg). The right ventricular cavity size is normal with 
normal free wall motion. There is no
pericardial effusion. Doppler demonstrates no aortic valve 
stenosis, no aortic regurgitation, trivial mitral
regurgitation and no resting left ventricular outflow tract 
gradient. The resting estimated pulmonary
artery systolic pressure is normal.

Stress Echo: Echo images were acquired within 56 sec post stress 
at heart rates of 133 to 113 bpm.
These demonstrated appropriate augmentation of all left 
ventricular segments. The E/e' was 8.8 at 127
seconds after exercise and similar to baseline. This suggests no 
abnormal increase in left ventricular
filling pressure with exercise. There was appropriate 
augmentation of right ventricular free wall motion.
The pulmonary artery systolic pressure was 40 mmHg (+ right 
atrial pressure) at 154 sec post exercise at
a heart rate of 95 bpm (TR jet tracing quality was limited). 
This value is moderately increased compared
to baseline/rest.

LEFT VENTRICLE (LV): Normal LV wall thicknesses. Normal LV 
cavity size. Normal resting
regional function. Normal LVEF (>55%) No resting LVOT gradient.

CONCLUSION: Good functional exercise capacity for age and 
gender. Uninterpretable ECG with no symptoms to achieved 
treadmill stress. No 2D echocardiographic evidence of inducible 
ischemia to achieved workload. No Doppler evidence for a change 
in left ventricular filling pressure with exercise. Normal 
pulmonary artery systolic pressure at rest with a moderate 
increase after exercise. Normal resting blood pressure with a 
normal blood pressure and a normal
heart rate response to achieved workload.

 
Brief Hospital Course:
Ms. ___ is a ___ with HTN, who presented with atypical chest
pain, with TWIs and ST depressions on EKG and history which is
not consistent with angina, with normal biomarkers. Admitted for
further work-up and stress echocardiogram that was ultimately 
normal.

ACUTE ISSUES:
=============
#TWIs and ST depressions on ECG
Pt with mild left shoulder discomfort and dyspnea, otherwise 
without symptoms consistent with angina. She has minimal risk 
factors for CAD and is very physically active without chest 
pressure on exertion with
intense exercise. Biomarkers negative and there is some evidence 
that old ECGs had nonspecific ST changes dating back to ___ at 
___. Stress echo without evidence of inducible ischemia 
and normal EF.

CHRONIC ISSUES:
===============
# Hypertension
Continued home HCTZ.

TRANSITIONAL ISSUES

[ ] Consider referral to physical therapy for chronic neck and 
shoulder pain; may be related to exercise and weight-lifting

[ ] ECG at baseline with ST depressions in V4-6, TWI V4-V6 and 
III, aVF; non-specific

# CODE: Full presumed
# CONTACT: Name of health care proxy: ___: Husband
Phone number: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Hydrochlorothiazide 12.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
Dyspnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were having shortness of breath; an EKG was concerning for 
a possible problem with your heart

WHAT WAS DONE WHILE I WAS IN THE HOSPITAL?
- You had a stress test that was normal

WHAT SHOULD I DO WHEN I GET HOME FROM THE HOSPITAL?
- Continue to take your home medications as prescribed
- Make sure to go to all of your follow-up appointments
- If you have fevers, chills, chest pain, palpitations, 
shortness of breath, dizziness, or generally feel unwell, please 
call your doctor or go to the emergency room

Sincerely,
Your ___ Treatment Team
 
Followup Instructions:
___